Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel
 
Attending: ___.
 
Chief Complaint:
Fatigue & dehydration  

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Ms. ___ is a ___ year old female with PMH significant for 
Stage IIc ovarian cancer on doxil/carboplatin C6D11 who presents 
with 1 day history of fatigue and weakness. Pt states that 
yesterday she began to feel very tired which she states ussually 
happens 2 weeks after her chemotherapy regimen. She also has 
been having some DOE when walking up stairs. She also reports 
having some dysuria that has been present for >4 days. She 
denies any fevers, chills, nausea, vomiting, diarrhea, CP, 
cough. She states that she is concerned that her blood counts 
are dropping and that she may need a blood transfusion since she 
is not feeling well.
 
Of note, she was admitted from ___ with abdominal 
pain, with no acute findings on her abdominal CT. In this 
setting her bowel regimen was increased. She had loose stools 
and dysuria on ___, and was given IVF in the ___ clinic on 
___. UA at that time showed 6 WBCs and no bacteria. CBC 
revealed WBC 4.5, Hgb 9.3, Hct 26.6, and Plt 81.  

In the ED initial vitals were: 97.3 110 126/89 14 100%    
Labs were notable for WBC 2.1 (ANC 1500), H/H 7.6/22.4, plt 46, 
normal chem 7, normal lactate, negative UA. A CXR showed no 
evidence of pneumonia. Blood Cx were drawn. She was given 1L NS 
and is being admitted for IV hydration and monitoring of blood 
counts. Vitals on transfer were: 98.2 88 116/86 16 99% RA 
 
Review of Systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies blurry vision, diplopia, loss of vision, 
photophobia. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies chest pain or tightness, palpitations, lower 
extremity edema. Denies cough, shortness of breath, or wheezes. 
Denies nausea, vomiting, diarrhea, constipation, abdominal pain, 
melena, hematemesis, hematochezia. Denies dysuria, stool or 
urine incontinence. Denies arthralgias or myalgias. Denies 
rashes or skin breakdown. No numbness/tingling in extremities. 
All other systems negative.  

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
___, pt presented at ___ with acute RLQ 
abdominal pain. CT there was notable for 6.3 cm right ovarian 
cyst.  
___, she had a right ovarian laparoscopic cystectomy, 6-7 cm 

cyst removed with intra-operative rupture, by report there was 
no ovarian surface involvement by tumor. ___ path review of it 

showed high grade serous carcinoma. 
___, pt was taken to OR by Dr. ___ a laparoscopy 
converted to laparotomy with TAH/BSO, pelvic tumor resection, 
total pelvic lymphadenectomy, para-aortic LN resection, 
infracolic omemtectomy, peritoneal biopsies was performed. 
Post-op she was noted to have tachycardia to 130 bpm with normal 

blood pressures and oxygen saturation. CTA chest demonstrated no 

evidence of cardiopulmonary process. Her symptoms eventually 
resolved and did not recur.  She also had a fever, but 
infectious w/u was negative and she defervesced spontaneously. 
She was discharged on ___.  Path showed ovarian serous 
carcinoma, no positive LNs, right pelvic sidewall positive for 
carcinoma, grade 3, with positive washings, thus staged as IIc. 
___, poc placed
___, C1D1 ___ initiated, but pt had a reaction 14 
minutes into the Taxol infusion and was sent to ED for chest 
pain that did not resolve in the clinic 
___, C1D1 ___
___ Pt admitted to ___ for weakness
___ Pt in ED for observation (weakness)
___ Pt in ED for observation (chest pain)
___ - Pt in ED for observation (weakness)
___- C6 doxil/carboplatin 

PAST MEDICAL HISTORY:  
Connective tissue disorder  
Raynaud's syndrome  
Depression  
Irritable bowel syndrom  
Osteoporosis  
Headache  
Uterine fibroids  
s/p wrist surgery  

 
Social History:
___
Family History:
Paternal great aunt had postmenopausal breast cancer. Maternal  
great uncle had colon cancer. Mother and grandfather have high  
blood pressure. Mother has DM, and father has psoriasis. She  
otherwise denies a family history of ovarian, uterine, cervical  

or vaginal cancer  

 
Physical Exam:
ON ADMISSION:
Vitals: T:98.1 BP:118/64 HR:73 RR:20 02 sat:100%RA  
GENERAL: NAD, awake and alert  
HEENT: NCAT, EOMI, PERRLA, anicteric sclera, MMM, good dentition 
 
NECK: nontender and supple, no LAD, no JVD  
CARDIAC: RRR, nl S1 S2, no MRG, port on right chest c/d/i.  
LUNG: CTAB, no rales, wheezes, or rhonchi  
ABDOMEN: soft, non-tender, non-distended, no rebound or guarding
EXT: warm and well-perfused, 2+ DP pulses bilaterally  
NEURO: CN II-XII tested and intact, strength ___ throughout, 
sensation grossly normal 
SKIN: vitiligo on face, warm and well perfused, no excoriations 
or lesions, no rashes  

ON DISCHARGE:
Vitals: T:97.6, BP 114/76, P 75, RR 18, SpO2 100% RA
   I/O: 580+1520/___
GENERAL: NAD, awake and alert  
HEENT: NCAT, EOMI, PERRLA, anicteric sclera, MMM, good dentition 
 
CARDIAC: RRR, nl S1 S2, no MRG, port on right chest c/d/i.  
LUNG: CTAB, no rales, wheezes, or rhonchi  
ABDOMEN: soft, non-tender, non-distended, nontender to 
palpation. No guarding, no rebound.
EXT: warm and well-perfused, 2+ DP pulses bilaterally  
NEURO: CN II-XII tested and intact, strength ___ throughout, 
sensation grossly normal 
SKIN: vitiligo on face, warm and well perfused, no excoriations 
or lesions, no rashes  

 
Pertinent Results:
ON ADMISSION:

___ 11:40AM BLOOD WBC-2.1*# RBC-2.53* Hgb-7.6* Hct-22.4* 
MCV-89 MCH-30.1 MCHC-33.9 RDW-16.6* Plt Ct-46*
___ 11:40AM BLOOD Neuts-72.1* ___ Monos-2.5 Eos-0.6 
Baso-0.3
___ 11:40AM BLOOD Glucose-106* UreaN-15 Creat-0.6 Na-142 
K-3.4 Cl-102 HCO3-27 AnGap-16
___ 06:00AM BLOOD Calcium-8.4 Phos-3.5 Mg-1.3*

ON DISCHARGE:

___ 05:51AM BLOOD WBC-1.8* RBC-2.81* Hgb-8.7* Hct-25.1* 
MCV-89 MCH-30.8 MCHC-34.5 RDW-15.9* Plt Ct-29*
___ 05:51AM BLOOD Neuts-55.4 ___ Monos-3.4 Eos-1.1 
Baso-0.7
___ 05:51AM BLOOD Glucose-92 UreaN-7 Creat-0.7 Na-142 K-4.0 
Cl-106 HCO3-30 AnGap-10
___ 05:51AM BLOOD Calcium-9.2 Phos-3.4 Mg-1.6

IMAGING:
CXR: 
IMPRESSION:  No acute cardiopulmonary abnormality.  No evidence 
of pneumonia. 

 
Brief Hospital Course:
___ year old female with PMH significant for Stage IIc ovarian 
cancer on doxil/carboplatin C6 who presents with 1 day history 
of fatigue and weakness. 

# Fatigue: 
Patient presented with fatigue, dehydration, and weakness in the 
setting of decreased PO intake at home. Given the time course, 
her symptoms are related to recent chemotherapy. Infectious 
causes of her symptoms were ruled out. Patient was treated with 
1 unit pRBCs and IVF. Her appetite remained poor during 
admission, however she was very vigilant about staying hydrated. 
Patient still felt weak on discharge. She was reassured that she 
should feel better within the next week. 

# Ovarian Cancer, Stage IIc: 
Currently C6D14 of doxil/carboplatin chemotherapy, now with 
falling cell counts, which is expected.  S/p 1 unit pRBCs on 
admission. 

# Abdominal pain:
Patient complained of diffuse abdominal pain that started after 
an episode of diarrhea. The pain was described as sharp, 
constant, and without radiation. Although the patient was tender 
to palpation, her abdomen remained soft and nontender. Her pain 
was treated with oxycodone. Her abdominal pain resolved on the 
day of discharge. 

# Depression: Stable. Continued Amitriptyline 10mg and 
Duloxetine 90mg. 

# Pain: Continued home regime of gabapentin 300mg and oxycodone 
5mg. 

# GERD: Continued omeprazole

TRANSITIONAL ISSUES
- ANC 990 at time of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 10 mg PO HS 
2. Bisacodyl 10 mg PO/PR DAILY 
3. Duloxetine 90 mg PO DAILY 
4. Gabapentin 300 mg PO BID 
5. Hydrocortisone Cream 0.5% 1 Appl TP TID:PRN skin rash 
6. Loratadine 10 mg PO DAILY 
7. Lorazepam 0.5 mg PO Q8H:PRN nausea/vomiting 
8. Multivitamins 1 TAB PO DAILY 
9. Omeprazole 40 mg PO DAILY 
10. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
11. Polyethylene Glycol 17 g PO DAILY 
12. Senna 1 TAB PO BID:PRN constipation 
13. Vitamin D ___ UNIT PO DAILY Vitamin D deficiency 
14. Nystatin 500,000 UNIT PO Q8H 

 
Discharge Medications:
1. Amitriptyline 10 mg PO HS 
2. Bisacodyl 10 mg PO/PR DAILY 
3. Duloxetine 90 mg PO DAILY 
4. Gabapentin 300 mg PO BID 
5. Hydrocortisone Cream 0.5% 1 Appl TP TID:PRN skin rash 
6. Loratadine 10 mg PO DAILY 
7. Lorazepam 0.5 mg PO Q8H:PRN nausea/vomiting 
8. Multivitamins 1 TAB PO DAILY 
9. Nystatin 500,000 UNIT PO Q8H 
10. Omeprazole 40 mg PO DAILY 
11. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
12. Polyethylene Glycol 17 g PO DAILY 
13. Senna 1 TAB PO BID:PRN constipation 
14. Vitamin D ___ UNIT PO DAILY Vitamin D deficiency 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chemotherapy induced fatigue and weakness
Chemotherapy induced anemia. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___. You came to the 
hospital because you felt weak and dehydrated. We also found 
that you were anemic. We gave you a blood transfusion and IV 
fluids after which your symptoms improved.  Your weakness and 
fatigue is likely from your recent chemotherapy. You should 
expect to not feel better for several weeks.

Wishing you the best!
 
Followup Instructions:
___